US04436748
A solution of 1.17 g of α-(2,3-dichloro-4-methoxyphenylthio)-α-phenylacetic acid in 25 ml of carbon disulfide is refluxed with 0.5 g of thionyl chloride until the solution becomes clear. The solution is cooled to 5° and to it is added, in small portions, 340 mg of aluminum chloride. The mixture is stirred at reflux for 3 additional hours. Ice-water (20 g) is added to quench the reaction mixture and the product is extracted into dichloromethane. The dichloromethane extract is washed with sodium bicarbonate solution, water, dried and concentrated to give a syrup. The oily residue is triturated with 2 ml of acetone and allowed to stand at room temperature. Crystals slowly deposit and are collected after 2 days. Recrystallization from chloroform gives 6,7-dichloro-5-methoxy-2-phenylbenzo[b]thiophen-3(2H)-one as a yellowish solid, mp 228°-229° C.

reactant | α-(2,3-dichloro-4-methoxyphenylthio)-α-phenylacetic acid | 1.17 g | ClC1=C(C=CC(=C1Cl)OC)SC(C(=O)O)C1=CC=CC=C1 | C15H12Cl2O3S
reactant | thionyl chloride | 0.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 340 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 25 ml | C(=S)=S | CS2
product | 6,7-dichloro-5-methoxy-2-phenylbenzo[b]thiophen-3(2H)-one | ClC=1C(=CC2=C(SC(C2=O)C2=CC=CC=C2)C1Cl)OC | C15H10Cl2O2S
